US08013117B2
Pyr-His(Trt)-OH
According to the general procedure for saponification, 5.6 g crude Pyr-His(Trt)-OMe were treated with 3.6 g sodium hydroxide in ethanol/water yielding 5.6 g of crude material (yield based on HPLC: 99%)

reactant | Pyr-His(Trt)-OMe | 5.6 g | N1[C@@H](CCC1=O)C(=O)N[C@@H](CC1=CN(C=N1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C(=O)OC | C31H30N4O4
reactant | sodium hydroxide | 3.6 g | [OH-].[Na+]
solvent | ethanol water | 5.6 g | C(C)O.O
product | Pyr-His(Trt)-OH | N1[C@@H](CCC1=O)C(=O)N[C@@H](CC1=CN(C=N1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C(=O)O | C30H28N4O4
